US04684641
(a) 1-(2-t-Butyldiphenylsilyloxyethyl)-2-oxoimidazolidine
A solution of 1-(2-hydroxyethyl)-2-oxoimidazolidine (13 g) in dimethylformamide (50 ml) containing imidazole (7.5 g) was treated with t-butylchlorodiphenylsilane (28.6 ml) and the clear solution stirred for 3 hours at ambient temperature. The white suspension formed was dissolved in water (200 ml) and ethyl acetate (500 ml). The aqueous phase was re-extracted with ethyl acetate (100 ml) and the combined organic phases were washed with 3×100 ml portions of water, 1×100 ml brine, dried and evaporated to give a solid. Trituration of the solid with diethyl ether (100 ml) afforded the title compound as a white solid, (33.7 g).

reactant | 1-(2-hydroxyethyl)-2-oxoimidazolidine | 13 g | OCCN1C(NCC1)=O | C5H10N2O2
reactant | imidazole | 7.5 g | N1C=NC=C1 | C3H4N2
reactant | t-butylchlorodiphenylsilane | 28.6 ml | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-t-Butyldiphenylsilyloxyethyl)-2-oxoimidazolidine | 33.7 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCN1C(NCC1)=O | C21H28N2O2Si
